US04429035
In a 100 ml three-neck flask was placed 50 ml of 2',6'-dihydroxyundecanophenone and after dissolving the undecanophenone in 50 ml of chloroform, the solution thus formed was stirred under ice-cooling. To the solution was added dropwise 10 ml of a chloroform solution of 1.4 ml of sulfuryl chloride over a period of 15 minutes. Thereafter, the mixture was stirred for 2 hours at room temperature and then after adding thereto n-hexane, the mixture was washed twice with water. After drying the reaction mixture with magnesium sulfate, the product was concentrated and the residue thus obtained was recrystallized from methanol to provide the light yellow crystals of 3'-chloro-2',6'-dihydroxyundecanophenone having a melting point of 76°-77° C. The structure was confirmed by carrying out analysis such as mass spectrography and nuclear magnetic resonance spectra.

reactant | 2',6'-dihydroxyundecanophenone | 50 ml | OC1=C(C(=CC=C1)O)C(CCCCCCCCCC)=O | C17H26O3
reactant | undecanophenone | C(CCCCCCCCCC)(=O)C1=CC=CC=C1 | C17H26O
reactant | sulfuryl chloride | 1.4 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3'-chloro-2',6'-dihydroxyundecanophenone | ClC=1C(=C(C(=CC1)O)C(CCCCCCCCCC)=O)O | C17H25ClO3
